US09382237B2
5-amino-3-((4-(tert-butyl)phenyl)amino)-1H-pyrazole-4-carboxamide was then suspended in 8 mL EtOH and 4-hydroxybenzaldehyde (325 mg, 1 eq.) and piperidine (4 drops) were added. Stirred at reflux until intermediate was absent (HPLC). After reaction was complete (18 hrs) it was brought to room temperature and filtered to obtain 3-((4-(tert-butyl)phenyl)amino)-5-((4-hydroxybenzylidene)amino)-1H-pyrazole-4-carboxamide as a yellow powder. Powder was washed with EtOH to remove any excess 4-hydroxybenzaldehyde. Product was allowed to dry under vacuum for 1 hr.

reactant | 5-amino-3-((4-(tert-butyl)phenyl)amino)-1H-pyrazole-4-carboxamide | NC1=C(C(=NN1)NC1=CC=C(C=C1)C(C)(C)C)C(=O)N | C14H19N5O
reactant | 4-hydroxybenzaldehyde | 325 mg, 1 eq. | OC1=CC=C(C=O)C=C1 | C7H6O2
solvent | EtOH | 8 mL | CCO | C2H6O
catalyst | piperidine | 4 drops | N1CCCCC1 | C5H11N
product | 3-((4-(tert-butyl)phenyl)amino)-5-((4-hydroxybenzylidene)amino)-1H-pyrazole-4-carboxamide | C(C)(C)(C)C1=CC=C(C=C1)NC1=NNC(=C1C(=O)N)N=CC1=CC=C(C=C1)O | C21H23N5O2
